US04575514
A solution of 9.58 g (0.073 mole) of anhydrous creatine in 96 ml (0.073 mole) of 0.76M tetrabutylammonium hydroxide in methanol was evaporated to an oil in vacuo. The residue was dissolved in 100 ml of DMF. An 11.2 g (0.073 mole) sample of m-chlorophenylisocyanate was added dropwise and the reaction was stirred for two hours. The mixture was poured into 200 ml of water and 73 ml of 1N HCl. The gummy precipitate was induced to crystallize by scratching. The solid was collected and triturated with tetrahydrofuran to give 6.6 g (30% yield) of light yellow solid N-{amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycine. A hydrochloride salt was prepared from conc. HCl to yield a pink solid, m.p. 228°-234° C.

reactant | creatine | 0.073 mole, 9.58 g | O=C(O)CN(C)C(N)=N | C4H9N3O2
reactant | tetrabutylammonium hydroxide | 0.073 mole, 0.76M, 96 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | m-chlorophenylisocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | HCl | 1N, 73 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | N-{amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycine | 30% yield | NC(N(CC(=O)O)C)=NC(=O)NC1=CC(=CC=C1)Cl | C11H13ClN4O3
